US09334263B2
Synthesis of 3-(4-aminophenyl)oxetan-3-ol
To a solution of 3-(4-(pyrrolidin-1-yldiazenyl)phenyl)oxetan-3-ol (500 mg, 2.02 mmol) in methanol (15 mL) was added Pd/C (10%, 250 mg) at RT. The reaction mixture was stirred under 1 atm H2 atmosphere (balloon) at 40° C. for 18 h. The mixture was filtered through a pad of Celite. The filtrate was concentrated to give a residue, which was purified by Prep-HPLC to afford the title compound (200 mg, yield 60%) as a white solid. MS (ES+) C9H11NO2 requires: 165, found 166 [M+H]+, purity: 96%.

reactant | 3-(4-(pyrrolidin-1-yldiazenyl)phenyl)oxetan-3-ol | 2.02 mmol, 500 mg | N1(CCCC1)N=NC1=CC=C(C=C1)C1(COC1)O | C13H17N3O2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 3-(4-aminophenyl)oxetan-3-ol | 200 mg, yield 60% | NC1=CC=C(C=C1)C1(COC1)O | C9H11NO2
